US04133809
1-Piperazinomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-one
2 g. of 1-[4-(t-butoxycarbonyl)-piperazinomethyl]-8-chloro-6-phenyl-4-H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one in 50 ml of trifluoroacetic acid is stirred for 2 hours. The reaction mixture is evaporated and the residue partitioned between methylene chloride and aqueous sodium bicarbonate. The organic phase is washed with water, dried and evaporated to give the title compound.

reactant | 1-[4-(t-butoxycarbonyl)-piperazinomethyl]-8-chloro-6-phenyl-4-H-s-triazolo[4,3-a][1,5]benzodiazepin-5-one | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)Cl | C26H29ClN6O3
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 1-Piperazinomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,5]-benzodiazepin-5-one | N1(CCNCC1)CC1=NN=C2N1C1=C(N(C(C2)=O)C2=CC=CC=C2)C=C(C=C1)Cl | C21H21ClN6O
